US08309580B2
A mixture of 3-[chloro(cyclohexyl)methyl]-5-(4-fluorophenyl)-2-methylfuran (1.3 g), methy 5-aminopyridine-2-carboxylate (0.7 g), sodium carbonate (0.5 g) and sodium iodide (1.4 g) in N,N-dimethylacetamide (20 mL) was stirred at 80° C. for 10 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in methanol (5 mL) and tetrahydrofuran (5 mL). 2N Lithium hydroxide (5 mL) was added, and the mixture was stirred at 80° C. for 4 hr. The reaction mixture was poured into water, and the mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 5-({cyclohexyl[5-(4-fluorophenyl)-2-methylfuran-3-yl]methyl}amino)pyridine-2-carboxylic acid. To the obtained 5-({cyclohexyl[5-(4-fluorophenyl)-2-methylfuran-3-yl]methyl}amino)pyridine-2-carboxylic acid (694 mg) were added ethyl β-alaninate hydrochloride (261 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (326 mg), hydroxybenzotriazole monohydrate (260 mg), triethylamine (237 μl) and N,N-dimethylformamide (10 mL), and the obtained mixture was stirred at room temperature for 4 hr. Ethyl acetate was added, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and water, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (5% ethyl acetate/hexane to 50% ethyl acetate/hexane) to give the title compound (521 mg, 60%) as an amorphous compound.

reactant | 3-[chloro(cyclohexyl)methyl]-5-(4-fluorophenyl)-2-methylfuran | 1.3 g | ClC(C1=C(OC(=C1)C1=CC=C(C=C1)F)C)C1CCCCC1 | C18H20ClFO
reactant | methy 5-aminopyridine-2-carboxylate | 0.7 g | NC=1C=CC(=NC1)C(=O)OC | C7H8N2O2
reactant | sodium carbonate | 0.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 1.4 g | [I-].[Na+]
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 5-({cyclohexyl[5-(4-fluorophenyl)-2-methylfuran-3-yl]methyl}amino)pyridine-2-carboxylic acid | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)F)C)NC=1C=CC(=NC1)C(=O)O | C24H25FN2O3
